US05358953
5-(2-Methylimidazo[4,5-c]pyrid-1-yl)indane-2-carboxylic acid
A mixture of 2-cyano-5-(2-methylimidazo[4,5-c]pyrid-1-yl)indane (739 mg, 2.70 mmol), 50% aqueous sodium hydroxide (1 ml) and methanol (6 ml) was heated at reflux under nitrogen for 9 hours, cooled, poured onto ice, and the pH of the solution was adjusted to pH 5 by the addition of 2M hydrochloric acid. The resulting precipitate was collected by filtration and dried under vacuum to give the title compound, (426 mg; 54%) as a colourless solid, m.p. 264°-267° C. Found: C,68.9; H,5.1; N,14.1. C17H15N3O2. 0.2 H2O requires C,68.8; H,5.2; N,14.1%.

reactant | 2-cyano-5-(2-methylimidazo[4,5-c]pyrid-1-yl)indane | 2.70 mmol, 739 mg | C(#N)C1CC2=CC=C(C=C2C1)N1C(=NC=2C=NC=CC21)C | C17H14N4
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | methanol | 6 ml | CO | CH4O
product | 5-(2-Methylimidazo[4,5-c]pyrid-1-yl)indane-2-carboxylic acid | CC=1N(C2=C(C=NC=C2)N1)C=1C=C2CC(CC2=CC1)C(=O)O | C17H15N3O2
